US09428469B2
tert-butyl 4-((3-(3,5-dichloro-4-cyanophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzoate (Compound 23)
To a solution of 4-(5-Amino-1H-[1,2,4]triazol-3-ylamino)-2,6-dichloro-benzonitrile (60 mg, 223 μmol) in MeOH (3.5 ml) was added tert-butyl 4-formylbenzoate (55.2 mg, 268 μmol) followed by acetic acid (21.0 mg, 20 μl, 349 μmol). The reaction was stirred at room temperature for 15 minutes, 2-picoline borane complex (32.2 mg, 349 μmol) was added and the stirring was continued for 4 days. The reaction mixture was poured into 0.1N HCl solution (20 ml) and let stand. The resulting suspension was filtered to collect the solid. Purification by super fluid chromatography and trituration from acetonitrile afforded a white solid as desired product (54.5 mg, 53% yield). MS +m/z: 459 (M+H)+

reactant | 4-(5-Amino-1H-[1,2,4]triazol-3-ylamino)-2,6-dichloro-benzonitrile | 223 μmol, 60 mg | NC1=NC(=NN1)NC1=CC(=C(C#N)C(=C1)Cl)Cl | C9H6Cl2N6
reactant | tert-butyl 4-formylbenzoate | 268 μmol, 55.2 mg | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
reactant | acetic acid | 349 μmol, 20 μl, 21.0 mg | C(C)(=O)O | C2H4O2
reactant | HCl | 0.1N, 20 ml | Cl | ClH
solvent | MeOH | 3.5 ml | CO | CH4O
product | tert-butyl 4-((3-(3,5-dichloro-4-cyanophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzoate | 54.5 mg, 53% yield | ClC=1C=C(C=C(C1C#N)Cl)NC1=NNC(=N1)NCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C21H20Cl2N6O2
